US05731438
Bromo-N-(4-methoxyphenyl)acetamide
The title compound was prepared via a modification of the literature procedure (Vloon, W. J.; Kruk, C.; Pandit, U. K.; Hofs, H. P.; McVie, J. G. J. Med Chem. 1987, 30, 20-4.). To a solution of 4-methoxyaniline (4.93 g, 40.0 mmol) in methylene chloride (200 mL) was added diisopropylethylamine (7.66 mL, 44.0 mmol). The resulting mixture was cooled to -20° C., and bromoacetyl bromide (3.82 mL, 44.0 mmol) was added slowly. The reaction mixture was warmed to room temperature over 20 minutes and stirred additional 30 minutes. The reaction mixture was diluted with water (100 mL), stirred for 30 minutes and the organic layer was separated. The organic layer was washed with water (2×100 mL), brine (100 mL), dried over magnesium sulfate and concentrated in vacuo to afford a beige solid (9.68 g) which was recrystallized from ethyl acetate to provide bromo-N-(4'-methoxyphenyl)acetamide as a whim crystal (6.31 g, 65%).

reactant | 4-methoxyaniline | 40.0 mmol, 4.93 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | diisopropylethylamine | 44.0 mmol, 7.66 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | bromoacetyl bromide | 44.0 mmol, 3.82 mL | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | Bromo-N-(4-methoxyphenyl)acetamide | BrCC(=O)NC1=CC=C(C=C1)OC | C9H10BrNO2
